US06949571B2
3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-methylaminocarbonylphenyl)-1,2-dihydropyridin-2-one
3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-methoxycarbonylphenyl)-1,2-dihydropyridin-2-one (10 mg) was added to 6 ml of a 40% methanolic solution of methylamine followed by stirring at room temperature for one night. The reaction solution was concentrated in vacuo to give 10 mg of the title compound as a pale yellow solid.

reactant | 3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-methoxycarbonylphenyl)-1,2-dihydropyridin-2-one | 10 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC(=CC=C1)C(=O)OC)=O | C25H17N3O3
reactant | methylamine | CN | CH5N
product | 3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-methylaminocarbonylphenyl)-1,2-dihydropyridin-2-one | 10 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC(=CC=C1)C(=O)NC)=O | C25H18N4O2
